US07572820B2
Ethyl 1-(cyclopropylmethyl)-5-nitro-1H-indole-2-carboxylate
To a suspension of commercially available ethyl 5-nitro-1H-indole-2-carboxylate (0.5 g, 2.13 mmol) in MeCN (7 mL) was added Cs2CO3 (1.39 g, 4.27 mmol) and (bromomethyl)cyclopropane (0.58 g, 4.27 mmol). The mixture was heated at 90° C., under N2, for 5 h. Upon cooling, the mixture was concentrated in vacuo and partitioned between EtOAc and H2O. The organic phase was washed with sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (0-30% EtOAc-hexanes gradient). The product slowly crystallized from CH2Cl2-hexanes to afford the title compound as a light yellow solid (0.42 g, 68% yield): MS (ES) m/z 289 (M+1).

reactant | ethyl 5-nitro-1H-indole-2-carboxylate | 2.13 mmol, 0.5 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10N2O4
reactant | Cs2CO3 | 4.27 mmol, 1.39 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (bromomethyl)cyclopropane | 4.27 mmol, 0.58 g | BrCC1CC1 | C4H7Br
solvent | MeCN | 7 mL | CC#N | C2H3N
product | Ethyl 1-(cyclopropylmethyl)-5-nitro-1H-indole-2-carboxylate | 0.42 g, 68% yield | C1(CC1)CN1C(=CC2=CC(=CC=C12)[N+](=O)[O-])C(=O)OCC | C15H16N2O4
